US08580841B2
Step F: Preparation of 3-(Hydroxymethyl)-5-(trifluoromethoxy)benzonitrile.
3-Cyano-5-(trifluoromethoxy)benzoyl chloride (844 mg, 3.38 mmol) was dissolved in THF (10 mL) and cooled to 0° C. Sodium borohydride (320 mg, 8.45 mmol) was added, followed by methanol (2 mL) and the reaction was stirred for 20 min at 0° C. before it was allowed to warm to room temperature. After 2 h, the reaction mixture was acidified to pH 3 with 1.0 M HCl. The aqueous mixture was extracted with ethyl acetate and the combined extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (440 mg). LCMS m/z=218.3 [M+H]+.

reactant | 3-Cyano-5-(trifluoromethoxy)benzoyl chloride | 3.38 mmol, 844 mg | C(#N)C=1C=C(C(=O)Cl)C=C(C1)OC(F)(F)F | C9H3ClF3NO2
reactant | Sodium borohydride | 8.45 mmol, 320 mg | [BH4-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(Hydroxymethyl)-5-(trifluoromethoxy)benzonitrile | 440 mg | OCC=1C=C(C#N)C=C(C1)OC(F)(F)F | C9H6F3NO2
